US07163954B2
A mixture of [1-bromo-6-(3-phenylacetyl-benzo[b]thiophen-2-yl)-naphthalen-2-yloxy]-acetonitrile (0.437 g, 0.852 mmol), sodium azide (0.284 g, 4.36 mmol) and ammonium chloride (0.233 g, 4.36 mmol) in DMF (10 mmol) was heated at 80° C. for two hours. After cooling to ambient temperature, the reaction mixture was poured into excess water and acidified with 2N hydrochloric acid. This was then extracted with ethyl acetate. The organic phase was washed with water and brine. It was then dried with anhydrous magnesium sulfate, filtered and solvent evaporated. The residue was purified by HPLC using 72% acetonitrile (0.1% trifluoroacetic acid) in water as the mobile phase. Evaporating the solvent and extracting with ethyl acetate, washing with water and brine, drying with anhydrous magnesium sulfate, filtering, concentrating and drying in vacuo at 64° C. for four hours yielded 1-{2-[5-bromo-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-yl]-benzo[b]thiophen-3-yl}-2-phenyl-ethanone as a yellow foam (0.180 g, 38.1%); mass spectrum (+EI, [M+H]+) m/z 555/557. 1H NMR (500 MHz, DMSO-d6): δ16.7–17.2 (br, 1H), 8.27 (d, 1H, J=8.86 Hz), 8.18–8.20 (m, 2H), 8.07–8.10 (m, 1H), 7.90–7.93 (m, 1H), 7.82 (dd, 1H, J=8.70 Hz and 1.83 Hz), 7.77 (d, 1H, J=9.16 Hz), 7.45–7.50 (m, 2H), 7.13–7.19 (m, 3H), 6.93 (dd, 2H, J=7.64 Hz and 1.55 Hz), 5.77 (s, 2H), 3.81 ppm (s, 2H). Elemental Analysis for C28H19BrN4O2S+0.3 mole H2O: Calcd: C, 59.96; H, 3.52; N, 9.99; Found: C, 59.58; H, 3.40; N, 9.69.

reactant | [1-bromo-6-(3-phenylacetyl-benzo[b]thiophen-2-yl)-naphthalen-2-yloxy]-acetonitrile | 0.852 mmol, 0.437 g | BrC1=C(C=CC2=CC(=CC=C12)C1=C(C2=C(S1)C=CC=C2)C(CC2=CC=CC=C2)=O)OCC#N | C28H18BrNO2S
reactant | sodium azide | 4.36 mmol, 0.284 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 4.36 mmol, 0.233 g | [Cl-].[NH4+]
reactant | DMF | 10 mmol | CN(C)C=O | C3H7NO
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | O | H2O
product | 1-{2-[5-bromo-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-yl]-benzo[b]thiophen-3-yl}-2-phenyl-ethanone | 0.180 g, 38.1% | BrC1=C2C=CC(=CC2=CC=C1OCC1=NN=NN1)C1=C(C2=C(S1)C=CC=C2)C(CC2=CC=CC=C2)=O | C28H19BrN4O2S
